US04540705
To a mixture of 10.1 g of 2-hydroxymethyl-1-methylnaphthalene, 14.0 ml of triethylamine and 120 ml of methylene dichloride, cooled in an ice-salt bath was added dropwise 5.5 ml of methanesulfonyl chloride. The reaction mixture was allowed to warm to room temperature, washed with water, dried and concentrated in vacuo to obtain 8.4 g of 2-chloromethyl-1-methylnaphthalene as a waxy solid.

reactant | 2-hydroxymethyl-1-methylnaphthalene | 10.1 g | OCC1=C(C2=CC=CC=C2C=C1)C | C12H12O
reactant | triethylamine | 14.0 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 5.5 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene dichloride | 120 ml | C(Cl)Cl | CH2Cl2
product | 2-chloromethyl-1-methylnaphthalene | 8.4 g | ClCC1=C(C2=CC=CC=C2C=C1)C | C12H11Cl
